US05932606
Step D: 1-Trityl-4-iodoimidazole
Trityl chloride (3.8 g, 13.6 mmol) was added to a cooled (0° C.) solution of 4-iodoimidazole (2.25 g, 11.6 mmol) and triethylamine (2 ml, 14.3 mmol) in methylene chloride (25 ml). After stirring for 30 min the reaction mixture was warmed to room temperature and stirred ther for 2 h. The reaction mixture was washed well with water and saturated NaHCO3 then dried (Na2SO4). Concentration gave the product as a white solid. 1H NMR (CDCl3) d 6.92 (s, 1 H), 7.08-7.20 (m, 6 H), 7.28-7.40 (m, 10 H).

reactant | Trityl chloride | 13.6 mmol, 3.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 4-iodoimidazole | 11.6 mmol, 2.25 g | IC=1N=CNC1 | C3H3IN2
reactant | triethylamine | 14.3 mmol, 2 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-Trityl-4-iodoimidazole | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)I | C22H17IN2
